US07691869B2
To a solution of the title D compound, 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate (0.06 g, 0.165 mmol) in dry DMF (5 mL), the title E compound, 1-(2,5-difluorophenyl)piperazine hydrochloride (0.33 mmol) and 0.06 mL of DIEA are added and the solution is stirred at 100° C. for 5 h. The reaction mixture is cooled to RT, and the solvent is removed under reduced pressure. To the residue, acetonitrile is added and the solution is stirred at 60° C. for 0.5 h. The solution is then cooled to RT, and the resulting solids are collected by filtration to give 7-(2-(4-(2,5-difluorophenyl)piperazin-1-yl)ethyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine: LC/MS (M+1=465.2). 1H NMR (DMSO-d6, 400 MHz) δ 2.64 (m, 4H), 2.76 (t, 2H, J=64 Hz), 3.01 (m, 4H), 4.28 (t, 2H, J=6.4 Hz), 6.60 (d, 1H, J=3.2 Hz), 6.72 (m, 1H), 6.75 (m, 1H), 6.80-6.85 (m, 1H), 7.12 (m, 1H), 7.18 (m, 2H), 7.51 (br s, 2H), 7.91 (s, 1H). Anal. calculated for (C23H22F2N8O): C, 59.48; H, 4.77; F, 8.18; N, 24.12; 0, 3.44. Found C, 59.45; H, 4.70; N, 24.19.

reactant | 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate | 0.165 mmol, 0.06 g | CS(=O)(=O)OCCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C14H14N6O4S
reactant | 1-(2,5-difluorophenyl)piperazine hydrochloride | 0.33 mmol | Cl.FC1=C(C=C(C=C1)F)N1CCNCC1
reactant | DIEA | 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-(2-(4-(2,5-difluorophenyl)piperazin-1-yl)ethyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine | FC1=C(C=C(C=C1)F)N1CCN(CC1)CCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C23H22F2N8O
